US08222243B2
((R)-2-Methyl-piperazin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone, hydrochloride
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 4-N-Boc-2-(R)-methyl-piperazine by the method described in Example 2 Method B. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried to afford intermediate N-Boc protected product as a colorless solid (106 mg, 92%). The Boc-protected intermediate was dissolved in a 4 N solution of hydrogen chloride in 1,4,-dioxane (2 mL) and stirred for 2 hr, after which time the reaction mixture was evaporated to approximately ¼ volume and diluted with ethyl ether (4 mL). The resulting solids were filtered and air dried to afford product as a colorless solid (85 mg, 86% overall). 1H NMR (D2O) 1.27 (d, J=7.5, 3 H), 2.02 (s, 3 H), 3.04 (dt, J=12.7, 3.1, 1 H), 3.12-3.18 (m, 2 H), 3.30-3.50 m (m, 2 H), 4.21 (d, J=14.5, 1 H), 7.23 (s, 2 H). 19F NMR −64.1. LC/MS 4.50 min, [M+1]+ 360.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | 4-N-Boc-2-(R)-methyl-piperazine | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)C | C10H20N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4,-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | ((R)-2-Methyl-piperazin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone, hydrochloride | 85 mg, 86% | Cl.C[C@H]1N(CCNC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | InChI=1S/C15H16F3N3O2S.ClH/c1-8-7-19-5-6-21(8)14(22)11-4-3-10(24-11)12-9(2)13(23-20-12)15(16,17)18;/h3-4,8,19H,5-7H2,1-2H3;1H/t8-;/m1./s1
